Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / milk
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
ERCP
EUS

 
History of Present Illness:
Ms. ___ is a ___ female with newly diagnosed
carcinoma, suspected to be pancreaticobiliary in nature
characterized by extensive omental and peritoneal disease with
associated pancreatic tail mass, porta hepatis soft tissue mass
with biliary obstruction and left portal vein partial thrombosis
as well as right ovarian lesion and pleural effusions. She is 
now
referred for diagnostic EUS and ERCP for biliary obstruction.
 
Social History:
___
Family History:
FamHx:
- Father with colon cancer in his ___
- Sister with breast cancer in her ___

 
Physical Exam:
VITALS:  Afebrile and vital signs stable (see eFlowsheet)
GENERAL: No apparent distress.
EYES: Anicteric and without injection.
ENT: Ears, nose, and oropharynx without erythema or exudate.
CV: Regular, S1 and S2, no murmurs or gallops.
RESP: Lungs clear to auscultation bilaterally without rales,
rhonchi, or wheezes.
GI: Abdomen soft, distended, non-tender to palpation.
MSK: BLE warm, without edema.
SKIN: Warm and well perfused, no lesions, rashes, or ulcerations
noted.
NEURO: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Speech is
fluent, verbal comprehension is intact. Face symmetric, gaze
conjugate and EOMI, gross motor function intact and symmetric in
all four extremities.

 
Pertinent Results:
___ 04:49AM BLOOD WBC-5.6 RBC-4.45 Hgb-12.3 Hct-38.8 MCV-87 
MCH-27.6 MCHC-31.7* RDW-13.3 RDWSD-42.5 Plt ___
___ 04:49AM BLOOD ALT-427* AST-245* AlkPhos-657* 
TotBili-1.1
___ 04:49AM BLOOD Glucose-92 UreaN-8 Na-137 K-4.9 Cl-100 
HCO3-25 AnGap-12

EUS
Ill defined pancreatic tail mass measuring at least 3 cm

EUS Pancreas Biopsy:
Poorly differentiated adenocarcinoma

ERCP
1 cm proximal CBD stricture immediately below stricture with 
upstream biliary dilation
Sphincterotomy done and brushings obtained
Uncovered metal stent placed in right intrahepatic system
 
Brief Hospital Course:
Ms. ___ is a ___ female with newly diagnosed 
carcinoma, found to be pancreatic adenocarcinoma per pancreatic 
biopsy this admit,  characterized by extensive omental and 
peritoneal disease with associated pancreatic tail mass, porta 
hepatis soft tissue mass with biliary obstruction and left 
portal vein partial thrombosis as well as R ovarian lesion and 
pleural effusions, who was  admitted for observation after 
EUS/ERCP.

PROBLEMS:
# Metastatic pancreatic cancer with  CBD compression - s/p 
EUS/FNA and CBD stenting - continued IVF and supportive care 
overnight.  She was able to advance her diet without difficulty 
the next day, but complained of abdominal dissension due to 
ascites (see below)

# Malignant Ascites - Last paracentesis had cell count that 
meets criteria for SBP, which Dr. ___ was likely 
related to malignancy, but wanted to treat as SBP. Will start 
cipro 500 mg PO BID x 5 days.   Patient concerned about rapidly 
reaccumulating ascitic fluid, I attempted to schedule 
paracentesis for day of discharge, but was unable to, so she was 
scheduled for paracentesis after discharge 

# Portal vein tumor thrombosis - Heme-Onc is aware and will
formulate a plan pending biopsy results.

# Hypertension - continue losartan

# Severe malnutrition - 30 lbs weight loss. Will as nutrition to 
see.

Greater than ___ hour spent on care on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. Losartan Potassium 25 mg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days  
2.  Losartan Potassium 25 mg PO DAILY  
3.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic pancreatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with for an ERCP, during which a stent was 
placed in your bile duct.  You also had an endoscopic ultrasound 
and a biopsy done of the pancreas.
We recommend that you continue the antibiotic ciprofloxacin for 
an additional four days.  I have sent the prescription to the 
___ in ___.  You are scheduled for a paracentesis 
tomorrow as per the plan with your oncologist.  
 
Followup Instructions:
___